* Z:\mnt\design.r\spice\examples\1317B.asc
C1 OUT 0 33µ Rser=0.02
D1 N001 OUT MBRS140
L1 IN N001 10µ Rser=0.02 Rpar=5000
R1 N005 0 324K
R2 OUT N005 1Meg
R3 N004 N003 33K
V1 IN 0 1.5
C3 N003 0 3300p
XU1 N004 N005 N002 0 N001 IN N006 N007 LT1317B
Rload OUT 0 100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2.5m startup
.lib LT1317B.sub
.backanno
.end
